US09306172B2
5-Iodo-2,3-thiophenedicarboxaldehyde (20.00 g, 75.15 mmol) and 1,4-cyclohexandione (4.25 g, 37.12 mmol) were dissoved in IMS (industrial methylated spirits) (600 cm3) by warming and stirring, and then cooled to 20° C. with a water bath. 5% KOH solution (7.5 cm3) was added in one portion under nitrogen with vigorous stirring. The reaction mixture was stirred at 20° C. for 30 minutes and the precipitate formed was collected by suction filtration, washed with IMS, water, IMS, then acetone, and dried in the vacuum oven at 40° C. overnight to yield 2,8-diiodo-anthra[2,3-b:7,6-b′]dithiophene-5,11-dione (18.39 g, 87%). The solid was directly used for the following reactions without further purification.

reactant | 5-Iodo-2,3-thiophenedicarboxaldehyde | 75.15 mmol, 20.00 g | IC1=CC(=C(S1)C=O)C=O | C6H3IO2S
reactant | 1,4-cyclohexandione | 37.12 mmol, 4.25 g | C1(CCC(CC1)=O)=O | C6H8O2
reactant | KOH | 7.5 cm3 | [OH-].[K+]
product | 2,8-diiodo-anthra[2,3-b:7,6-b′]dithiophene-5,11-dione | 18.39 g, 87% | IC1=CC2=C(S1)C=C1C(C(C3=CC4=C(SC(=C4)I)C=C3C1=O)=O)=C2 | C18H6I2O2S2
